* Rise/Fall dynamic power characterization - project1_bufferckt (PEX)

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* ---------------- PEX netlist ----------------
.subckt project1_bufferckt vdd vss int in out
X0 vss in int vss sky130_fd_pr__nfet_01v8 ad=0.0798 pd=0.8 as=0.1596 ps=1.6 w=0.42 l=0.15
**devattr s=6384,320 d=3192,160
X1 vdd in int vdd sky130_fd_pr__pfet_01v8 ad=0.2337 pd=1.61 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=9348,322
X2 out int vss vss sky130_fd_pr__nfet_01v8 ad=0.2394 pd=1.98 as=0.0798 ps=0.8 w=0.42 l=0.15
**devattr s=3192,160 d=9576,396
X3 out int vdd vdd sky130_fd_pr__pfet_01v8 ad=0.6396 pd=3.5 as=0.2337 ps=1.61 w=1.23 l=0.15
**devattr s=9348,322 d=25584,700
C0 in vdd 0.0671f
C1 out vdd 0.06999f
C2 out in 0.0041f
C3 int vdd 0.11573f
C4 in int 0.14349f
C5 out int 0.08094f
C6 out vss 0.37429f
C7 vdd vss 0.76028f
.ends

* ---------------- Testbench ----------------
* Supply (source name differs from node name to avoid confusion)
Vsup vdd 0 DC 1.8

* Input: 0 -> 1.8 at t=1n, high for 4n, falls at ~6n, period 10n
* (rise event: ~1n-5n, fall event: ~6n-10n; slew/load overwritten in loop)
Vin in 0 pulse(0 1.8 1n 10p 10p 4n 10n)

* DUT: port order = vdd vss int in out
Xdut vdd 0 mid in out project1_bufferckt

Cload out 0 0.5f

.tran 1p 10n

.control
let vddv = 1.8

echo "=== RISE / FALL POWER CHARACTERIZATION (PEX) ===" > results.txt
echo "slew_ps | load_fF | E_rise_tot_fJ | E_rise_int_fJ | P_rise_20-80_nW | E_fall_fJ | P_fall_80-20_nW" >> results.txt
echo "=== RISE / FALL POWER CHARACTERIZATION (PEX) ==="
echo "slew_ps | load_fF | E_rise_tot_fJ | E_rise_int_fJ | P_rise_20-80_nW | E_fall_fJ | P_fall_80-20_nW"

foreach slew 10e-12 100e-12 1000e-12
  foreach cl 0.5e-15 10e-15 100e-15

    alter vin pulse = [ 0 1.8 1n $slew $slew 4n 10n ]
    alter cload = $cl
    run

    * ---- output transition timing (20% / 80% of 1.8 V) ----
    meas tran t20r WHEN v(out)=0.36 RISE=1
    meas tran t80r WHEN v(out)=1.44 RISE=1
    meas tran t80f WHEN v(out)=1.44 FALL=1
    meas tran t20f WHEN v(out)=0.36 FALL=1

    * ---- RISE: charge drawn from supply over the whole event ----
    meas tran q_rise    INTEG i(vsup) FROM=0.9n TO=5n
    meas tran q_rise_w  INTEG i(vsup) FROM=$&t20r TO=$&t80r

    * ---- FALL: charge drawn from supply over the whole event ----
    meas tran q_fall    INTEG i(vsup) FROM=5n TO=9.9n
    meas tran q_fall_w  INTEG i(vsup) FROM=$&t80f TO=$&t20f

    * i(vsup) is negative when sourcing current -> E = -Q * Vdd
    let e_rise_fj     = -q_rise * vddv * 1e15
    * subtract external load energy (CL*Vdd^2 drawn from supply on rise)
    let e_rise_int_fj = e_rise_fj - $cl * vddv * vddv * 1e15
    let p_rise_nw     = -q_rise_w * vddv / 10 * 1e9

    let e_fall_fj     = -q_fall * vddv * 1e15
    let p_fall_nw     = -q_fall_w * vddv / 10 * 1e9

    let slew_ps = $slew * 1e12
    let cl_ff   = $cl * 1e15

    echo "$&slew_ps | $&cl_ff | $&e_rise_fj | $&e_rise_int_fj | $&p_rise_nw | $&e_fall_fj | $&p_fall_nw"
    echo "$&slew_ps | $&cl_ff | $&e_rise_fj | $&e_rise_int_fj | $&p_rise_nw | $&e_fall_fj | $&p_fall_nw" >> results.txt

  end
end

echo ""
echo "Liberty: use E_rise_int_fJ for rise_power and E_fall_fJ for fall_power (internal_power, energy units)."
echo "Results also saved to results.txt"
.endc

.end
